US06703387B2
To a solution of 2.34 g (11.9 mmol) of diethylphosphonoacetic acid in toluene at 0° C. was added 4.82 g (47.7 mmol) of triethylamine followed by 1.94 g (17.9 mmol) of chlorotrimethylsilane. The mixture was stirred at ambient temperature for 1 hour, then 1.13 g (11.9 mmol) of magnesium chloride was added and the mixture was stirred for a further 1 hour. To the mixture was added 2.0 g (14.3 mmol) of 2-fluorobenzoyl chloride and the mixture was stirred for 72 hours. The mixture was partitioned between 200 ml of water and 250 ml, 100 ml of dichloromethane. The combined organic portions were dried (magnesium sulphate), filtered and evaporated. The residue was purified by column chromatography eluting with 3-5% methanol/dichloromethane to give 2.1 g (64%) of [2-(2-fluorophenyl)-2-oxoethyl]phosphonic acid diethyl ester as a colorless oil; MS: m/e 274.9 [M+H]+.

reactant | diethylphosphonoacetic acid | 11.9 mmol, 2.34 g | C(C)OP(=O)(OCC)CC(=O)O | C6H13O5P
reactant | triethylamine | 47.7 mmol, 4.82 g | C(C)N(CC)CC | C6H15N
reactant | chlorotrimethylsilane | 17.9 mmol, 1.94 g | Cl[Si](C)(C)C | C3H9ClSi
reactant | magnesium chloride | 11.9 mmol, 1.13 g | [Cl-].[Mg+2].[Cl-]
reactant | 2-fluorobenzoyl chloride | 14.3 mmol, 2.0 g | FC1=C(C(=O)Cl)C=CC=C1 | C7H4ClFO
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | [2-(2-fluorophenyl)-2-oxoethyl]phosphonic acid diethyl ester | 2.1 g, 64% | C(C)OP(OCC)(=O)CC(=O)C1=C(C=CC=C1)F | C12H16FO4P
